US06180813B2
Synthesis of ±2-octyl benzylidenecyanoacetate
143.60 g 2-octanol, 206.40 g methyl benzylidenecyanoacetate, 211.70 g cyclohexane and 0.56 g titanium (IV) tetrabutoxide were charged to a flask fitted with an oil bath for heating. The oil bath was heated to 130° C. and methanol was removed as an azeotrope for a period of approximately 25 hours. The methyl benzylidenecyanoacetate used in this synthesis was made by mixing 1.198 kg benzaldehyde, 1.119 kg methyl cyanoacetate, 0.920 kg absolute ethanol and 0.66 g piperidine. The mixture is refluxed for two hours and allowed to cool. The resulting product was a mobile liquid that was ±2-octyl benzylidenecyanoacetate having a representative structure shown below.

reactant | 2-octanol | 143.60 g | CC(CCCCCC)O | C8H18O
reactant | methyl benzylidenecyanoacetate | 206.40 g | C(C1=CC=CC=C1)=C(C(=O)OC)C#N | C11H9NO2
catalyst | titanium (IV) tetrabutoxide | 0.56 g | [O-]CCCC.[O-]CCCC.[O-]CCCC.[O-]CCCC.[Ti+4]
solvent | cyclohexane | 211.70 g | C1CCCCC1 | C6H12
product | 2-octyl benzylidenecyanoacetate | C(C1=CC=CC=C1)=C(C(=O)OC(C)CCCCCC)C#N | C18H23NO2
